US06486190B1
A mixture of 3,5dimethylaniline (20 g, 165 mmol), acetic anhydride (24 mL, 247 mmol) and triethylamine (70 mL, 495 mmol) in methylene chloride (300 mL is stirred at room temperature for 16 hours. The mixture is washed with water, dried (magnesium sulfate) and rotary evaporated. The residue is triturated with hexane and filtered to afford N-acetyl-3,5-dimethylaniline (25 g).

reactant | 3,5dimethylaniline | 165 mmol, 20 g | CC=1C=C(N)C=C(C1)C | C8H11N
reactant | acetic anhydride | 247 mmol, 24 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 495 mmol, 70 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-acetyl-3,5-dimethylaniline | 25 g | C(C)(=O)NC1=CC(=CC(=C1)C)C | C10H13NO
